US07435735B2
Step 3: 2-(4-Fluorobenzyl)-10-hydroxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]-pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A mixture of ethyl 1-(4-fluorobenzyl)-2-oxo-4-{[(trifluoromethyl)-sulfonyl]oxy}-1,2,5,6-tetrahydropyridine-3-carboxylate (0.67 g, 1.58 mmol) and piperazin-2-one (0.63 g, 6.3 mmol) was heated in a sealed tube at 180° C. in a microwave reactor for 10 minutes with stirring. The resultant solution was diluted with methanol and was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided a semi-purified sample of title compound. Further purification of the product was achieved through formation of the corresponding tosylate. To a solution of the semipurified product (0.1 g, 0.30 mmol) and triethylamine (63 μL, 0.46 mmol) in dichloromethane (2 mL) at room temperature, toluenesulfonyl chloride (58 mg, 0.30 mmol) was added. The resultant solution was stirred at room temperature for two hours. The product was isolated and purified. A solution of the resultant tosylate (30 mg, 0.06 mmol) and sodium methoxide (10 mg, 0.18 mmol) in anhydrous methanol (0.5 mL) was heated at 60° C. for 1 hour. The resultant solution was concentrated under vacuum. The residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | ethyl 1-(4-fluorobenzyl)-2-oxo-4-{[(trifluoromethyl)-sulfonyl]oxy}-1,2,5,6-tetrahydropyridine-3-carboxylate | 1.58 mmol, 0.67 g | FC1=CC=C(CN2C(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC)=O)C=C1 | C16H15F4NO6S
reactant | piperazin-2-one | 6.3 mmol, 0.63 g | N1C(CNCC1)=O | C4H8N2O
solvent | methanol | CO | CH4O
product | 2-(4-Fluorobenzyl)-10-hydroxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]-pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | FC1=CC=C(CN2C(C=3C(=C4N(CCNC4=O)C3CC2)O)=O)C=C1 | C17H16FN3O3
